US07671080B2
A solution of 1.0M lithium aluminium hydride in diethyl ether (27.0 ml, 27.0 mmol) was added dropwise over 10 min to a solution of 5-tert-butyl-2-methoxybenzoic acid methyl ester (5.00 g, 22.4 mmol) in diethyl ether (90 ml) under nitrogen, maintaining temperature between 0° C. and 5° C. When addition was complete, the reaction was stirred at 20° C. for 3.5 h, then again cooled to 0° C. Addition of water (5 ml) destroyed any excess reagent and filtration of the resulting mixture through dicalite removed the unwanted inorganic residue. After drying the resulting filtrate with magnesium sulfate, evaporation under reduced pressure afforded (5-tert-butyl-2-methoxyphenyl)methanol as a pale yellow gum (4.20 g, 21.6 mmol, 96%).

reactant | lithium aluminium hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-tert-butyl-2-methoxybenzoic acid methyl ester | 22.4 mmol, 5.00 g | COC(C1=C(C=CC(=C1)C(C)(C)C)OC)=O | C13H18O3
reactant | water | 5 ml | O | H2O
solvent | diethyl ether | 90 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 27.0 mmol, 27.0 ml | C(C)OCC | C4H10O
product | (5-tert-butyl-2-methoxyphenyl)methanol | 21.6 mmol, 4.20 g, 96% | C(C)(C)(C)C=1C=CC(=C(C1)CO)OC | C12H18O2
